US06846835B2
Synthesis of (2R,5R)-2-(t-butyl)-5-(4-chlorophenyl)-1,3-dioxolan-4-one
To a solution of 16 g of (2R)-2-(4-chlorophenyl)-2-hydroxyacetic acid (cf. JP-Hei 6 (1994)-165695A) in 440 ml of hexane/toluene (10:1), 23 ml of pivalaldehyde and 326 mg of p-toluenesulfonic acid monohydrate were added by the order stated, followed by 12 hours' heating under reflux while removing the generated water with Dean-Stark trap. The reaction liquid was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried over anhydrous sodium sulfate. Distilling the solvent off under reduced pressure, 14 g of the title compound was obtained.

reactant | (2R)-2-(4-chlorophenyl)-2-hydroxyacetic acid | 16 g | ClC1=CC=C(C=C1)[C@H](C(=O)O)O | C8H7ClO3
reactant | p-toluenesulfonic acid monohydrate | 326 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | hexane toluene | 440 ml | CCCCCC.C1(=CC=CC=C1)C
solvent | pivalaldehyde | 23 ml | C(C(C)(C)C)=O | C5H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R,5R)-2-(t-butyl)-5-(4-chlorophenyl)-1,3-dioxolan-4-one | 14 g | C(C)(C)(C)[C@@H]1O[C@@H](C(O1)=O)C1=CC=C(C=C1)Cl | C13H15ClO3
